US04247549
Synthesis of 1-trifluoroacetyl-4-[1,1-dimethylethoxycarbonyl]piperazine.
Ethyl trifluoroacetate (3.9 g, 0.027 mole) was added over 10 minutes to a warm (40° C.) stirred melt of 5.2 g (0.028 mole) 1-[1,1-dimethylethoxycarbonyl]piperazine. The mixture was heated at 120° C. for 2 hours, cooled to room temperature, treated with 1.0 g (0.007 mole) ethyl trifluoroacetate, and reheated for an additional 2 hours. The mixture was allowed to stand 18 hours at room temperature and then was evaporated in vacuo. The residue was dissolved in ether, passed through an alumina-packed column (2.2×16 cm), the eluent collected, washed with dilute aqueous HCl, dried (MgSO4), filtered, and evaporated in vacuo to yield 6.6 g yellow oil which solidified on standin g Recrystallization from hexane gave 6.0 g of white, crystalline solid, m.p. 66°-68° C. Calc. for C11H17F3N2O3 (282.26): C, 46.81; H, 6.07; N, 9.92. Found: C, 46.76; H, 6.40; N, 10.12.

reactant | Ethyl trifluoroacetate | 0.027 mole, 3.9 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | 1-[1,1-dimethylethoxycarbonyl]piperazine | 0.028 mole, 5.2 g | CC(C)(OC(=O)N1CCNCC1)C | C9H18N2O2
reactant | ethyl trifluoroacetate | 0.007 mole, 1.0 g | FC(C(=O)OCC)(F)F | C4H5F3O2
product | 1-trifluoroacetyl-4-[1,1-dimethylethoxycarbonyl]piperazine | 6.6 g | FC(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H17F3N2O3
